Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fever, cough
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old with a history of childhood asthma, who 
is presenting with 5 days of fevers, cough, and arthralgias.

Patient shares that 5 days prior to admission, he first noticed 
himself to feel febrile. He then developed a productive cough, 
diffuse myalgias and overall ill feeling. As the week 
progressed, he developed two days of nonbloody diarrhea, with no 
recent antibiotic use. He noticed while he would be in class he 
would feel lightheaded, and had blurry vision along with an 
occipital pounding headache. He had no neck stiffness, no 
photophobia, no neurologic changes. He shares he was not eating 
and drinking much during this time because he was not feeling 
well. On the day of presentation, he awoke from a nap, felt 
disoriented, lightheaded and more ill, and came to the ED.

In the ED, initial vitals were: 105.5 128 136/58 28 99% RA  
Initial labs notable for lactate 4.6, H/h 13.2/39.8, WBC 9.8, Cr 
1, Na 131, INR 1.3. Repeat labs with lactate 2.0, H/H 11.5/34.5, 
Cr 0.7, Na 139. He was flu negative, with a negative UA. He was 
given a total of 6L IVF and started on 1L LR @ 100 cc/hr, 
ceftriaxone/azithromycin, and acetaminophen x2 and ibuprofen x2. 


Vitals prior to transfer to the floor were 98.1 98 125/77 20 97% 
RA. 

On the floor, patient shares that he still has a cough, and 
feels like he is having discomfort breathing, with some 
wheezing. He had no chest pain and no pain with respiration, but 
does note chest muscle pain from coughing a lot. 
 
Review of systems:  
(+) Per HPI. No nausea or vomiting, no abdominal pain, no 
vomiting, no dysuria, no recent travel outside of the country, 
no new sexual partners.   

 
Past Medical History:
Asthma- currently not on bronchodilator

Previous hospitalized for pneumonia around age ___
 
Social History:
___
Family History:
Family history of anemia
 
Physical Exam:
ADMISSION PHYSICAL EXAM
Vital Signs:  T98.4 BP163/94, HR100, RR23, 100%RA, ___ dyspnea
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck not tender, no LAD  
CV: tachycardic, normal S1 + S2, no murmurs, rubs, gallops  
Lungs: bilateral diffuse wheezes and coarse breath sounds
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: fluent speech, AOx3

DISCHARGE PHYSICAL EXAM
Vitals: T:99.5-100.4 BP:130-140s/70-80s P:88-100 ___ 
O2:97-100RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: neck not tender, no LAD  
CV: tachycardia, normal S1 + S2, no murmurs, rubs, gallops  
Lungs: bilateral diffuse wheezes on inspiration and coarse 
breath sounds 
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Skin:  no rashes
Neuro:  AxO3, moving all extremities
 
Pertinent Results:
ADMISSION LABS
___ 08:01PM BLOOD WBC-9.8 RBC-5.79 Hgb-13.2* Hct-39.8* 
MCV-69* MCH-22.8* MCHC-33.2 RDW-16.6* RDWSD-38.5 Plt ___
___ 08:01PM BLOOD Neuts-81* Bands-11* Lymphs-4* Monos-4* 
Eos-0 Baso-0 ___ Myelos-0 AbsNeut-9.02* 
AbsLymp-0.39* AbsMono-0.39 AbsEos-0.00* AbsBaso-0.00*
___ 08:01PM BLOOD Hypochr-1+ Anisocy-2+ Poiklo-NORMAL 
Macrocy-NORMAL Microcy-2+ Polychr-NORMAL
___ 08:05PM BLOOD ___ PTT-32.8 ___
___ 08:01PM BLOOD Plt Smr-NORMAL Plt ___
___ 08:01PM BLOOD Glucose-214* UreaN-8 Creat-1.0 Na-131* 
K-3.6 Cl-94* HCO3-21* AnGap-20
___ 08:01PM BLOOD Albumin-4.3
___ 08:06PM BLOOD Lactate-4.6*

DISCHARGE/PERTINENT LABS
___ 06:20AM BLOOD WBC-10.1* RBC-4.98 Hgb-11.4* Hct-34.3* 
MCV-69* MCH-22.9* MCHC-33.2 RDW-16.4* RDWSD-39.3 Plt ___
___ 06:01AM BLOOD Neuts-83* Bands-0 Lymphs-10* Monos-7 
Eos-0 Baso-0 ___ Myelos-0 AbsNeut-7.80* 
AbsLymp-0.94* AbsMono-0.66 AbsEos-0.00* AbsBaso-0.00*
___ 06:01AM BLOOD Hypochr-NORMAL Anisocy-2+ Poiklo-1+ 
Macrocy-2+ Microcy-NORMAL Polychr-NORMAL Ovalocy-1+ 
Schisto-OCCASIONAL Tear Dr-OCCASIONAL
___ 06:20AM BLOOD ___
___ 06:20AM BLOOD Plt ___
___ 08:04AM BLOOD ___
___ 02:57PM BLOOD Ret Aut-0.6 Abs Ret-0.03
___ 06:20AM BLOOD Glucose-97 UreaN-4* Creat-0.7 Na-136 
K-3.6 Cl-101 HCO3-24 AnGap-15
___ 02:57PM BLOOD Iron-20*
___ 06:20AM BLOOD Calcium-9.1 Phos-3.3 Mg-2.0
___ 02:57PM BLOOD calTIBC-204* Hapto-350* Ferritn-459* 
TRF-157*
___ 02:57PM BLOOD HIV Ab-Negative
___ 06:07AM BLOOD Lactate-2.0

IMAGING/DIAGNOSTICS
Chest Xray: Consolidation noted in the right middle lobe as well 
as patchy opacities in left lower lobe.

ECG: ___- sinus tachycardia 101, ___levation in V2, V3. 
Inverted T waves in avR, V1

Repeat ECG: same as above
 
Brief Hospital Course:
Mr. ___ is a ___ year old otherwise healthy man who presented 
with fever, shortness of breath, and cough and was found to have 
pneumonia.

# Community acquired pneumonia: Patient initially presented with 
fevers, tachycardia, lactate of 4 and ___. Mr. ___ history, 
physical exam, and chest x ray are consistent with community 
acquired pneumonia. Urine analysis, HIV antibody, and legionella 
urine antigen were all negative. Patient was treated with 
levofloxacin to complete a 7 day course. He was also provided 
with duonebs for wheezing. He rapidly improved with this 
treatment and was discharged with instruction to return to the 
hospital if any recurrent fevers, worsening SOB or other 
concerning symptoms.  

# Anemia: Patient presented with microcytic anemia (H/h 
13.2/28.9, MCV 69). Iron studies with consistent with a mixed 
___ and anemia of chronic disease, vs thalassemia picture. He 
endorsed an iron replete diet and did not note bloody bowel 
movements. Patient's mother informed the team that they have a 
family history of anemia. Patient should have an outpatient Hb 
electrophoresis for confirmation of diagnosis. Crit was stable 
during the hospitalization.

#  Elevated INR: INR was initially noted elevated at admission 
likely due to acute infection. Remained consistently elevated at 
1.3 throughout hospital stay.  Please repeat as an outpt and 
consider additional w/u if persistently elevated.

# Acute Kidney Injury: On admission, Cr was elevated at 1.0, 
indicative of a prerenal acute kidney injury due to volume 
depletion and pneumonia from diarrhea and low oral intake. Labs 
normalized following IVF with Cr dropping to 0.7. 

*** TRANSITIONAL ISSUES ***
#ANTIBIOTICS: levofloxacin (750 mg po daily), ___.
#MICROCYTIC ANEMIA: patient was found to be mildly anemic with 
low iron and low iron saturation. Suggest follow up with PCP 
with hemoglobin electrophoresis to evaluate thalassemia. 
#Follow up INR, elevated to 1.3 inpatient 
#Patient discharged with an albuterol inhaler as he was 
wheezing, likely secondary to CAP, but should be followed up as 
patient has history of asthma
 
Medications on Admission:
None
 
Discharge Medications:
1. Levofloxacin 750 mg PO DAILY 
RX *levofloxacin 750 mg 1 tablet(s) by mouth daily Disp #*5 
Tablet Refills:*0
2. Guaifenesin-CODEINE Phosphate ___ mL PO Q4H:PRN cough 
RX *codeine-guaifenesin 100 mg-10 mg/5 mL ___ ml by mouth q4h 
prn Refills:*0
3. Albuterol Inhaler 2 PUFF IH Q4H:PRN shortness of breath, 
wheezing 
RX *albuterol sulfate [ProAir HFA] 90 mcg 2 puff INH q4h prn 
Disp #*1 Inhaler Refills:*1

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: Community acquired pneumonia
Secondary Diagnosis: Microcytic Anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dr. ___,

It was a pleasure taking care of you during your hospitalization 
at the ___. You were admitted 
to ___ with a fever and cough and found to have pneumonia. You 
were treated with an IV antibiotics, then transitioned to oral 
antibiotics (levofloxacin, Levaquin). The last day of 
antibiotics will be ___. We will also prescribe you an inhaler 
for your wheezing. If you again developed high fevers, poor oral 
intake, or have worsening problems breathing, please seek 
medical attention.

In addition, as we discussed, you have some low red blood cell 
counts, also called anemia. You told us you have a family 
history of anemia, and this may be the cause of the anemia, but 
you should follow up with your primary care physician about the 
cause of this.

It was a pleasure caring for you. We wish you a speedy recovery.

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___